US05294734
1.77 g (4.5 mmol) of 4-diisopropylphosphonomethyl-2-formylamino-6-methoxy-hex-3-enoic acid ethyl ester are dissolved in 12 ml of dichloromethane, and 2.32 ml (18.0 mmol) of trimethylbromosilane are added dropwise at room temperature. The mixture is left to stand at room temperature for 22 hours, 12 ml of ethanol are added dropwise, the mixture is left to stand for a further 24 hours and is concentrated by evaporation in a rotary evaporator, the residue is dissolved in 10 ml of ethanol, and a mixture of 2 ml of propylene oxide and 2 ml of ethanol is added. A suspension forms, which is stirred for a further 2 hours at room temperature and for 2 hours with ice cooling, and is then filtered with suction. 2-amino-6-methoxy-4-phosphonomethyl-hex-3-enoic acid ethyl ester having a melting point of 242° (decomp.) is obtained.

reactant | 4-diisopropylphosphonomethyl-2-formylamino-6-methoxy-hex-3-enoic acid ethyl ester | 4.5 mmol, 1.77 g | C(C)OC(C(C=C(CCOC)CP(=O)(OC(C)C)OC(C)C)NC=O)=O | C17H32NO7P
reactant | trimethylbromosilane | 18.0 mmol, 2.32 ml | C[Si](Br)(C)C | C3H9BrSi
reactant | ethanol | 12 ml | C(C)O | C2H6O
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | 2-amino-6-methoxy-4-phosphonomethyl-hex-3-enoic acid ethyl ester | C(C)OC(C(C=C(CCOC)CP(=O)(O)O)N)=O | C10H20NO6P
